US05643931
1,4-Bis[4-[(1-benzyloxyureido)methyl]phenoxy]butane (1.94 g) was dissolved in 45 ml of dimethylformamide-ethanol (8:1), mixed with 0.29 g of 10% palladium carbon and then the mixture was stirred for 22 hours at room temperature in an atmosphere of hydrogen. The catalyst was removed by filtration using Celite, and the solvent was evaporated under a reduced pressure to obtain 0.84 g of 1,4-bis[4-[(1-hydroxyureido)methyl]phenoxy]butane.

reactant | 1,4-Bis[4-[(1-benzyloxyureido)methyl]phenoxy]butane | 1.94 g | C(C1=CC=CC=C1)ON(C(=O)N)CC1=CC=C(OCCCCOC2=CC=C(C=C2)CN(C(=O)N)OCC2=CC=CC=C2)C=C1 | C34H38N4O6
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide ethanol | 45 ml | CN(C=O)C.C(C)O
catalyst | palladium carbon | 0.29 g | [C].[Pd]
product | 1,4-bis[4-[(1-hydroxyureido)methyl]phenoxy]butane | 0.84 g | ON(C(=O)N)CC1=CC=C(OCCCCOC2=CC=C(C=C2)CN(C(=O)N)O)C=C1 | C20H26N4O6
